US04673508
Copoly(N-vinyl-2-pyrrolidone/maleic anhydride was prepared as follows. About 7.8 g of maleic anhydride was added to about 85 ml of dioxane in a flask equipped with a reflux condenser, mechanical stirrer, and nitrogen inlet. The flask and its contents were heated to about 80° C. About 7.06 g of N-vinyl-2-pyrrolidone and about 0.96 g azobisisobutyronitrile were dissolved in about 50 ml of dioxane. About 15 ml aliquots of the N-vinyl-2-pyrrolidone solution were added to the contents of the flask at 15 minute intervals, while maintaining the temperature of the flask at about 80° C. After addition was complete, the flask was held at about 80° C. to provide for a total reaction time of 3 hours. The reaction mixture was cooled to room temperature, poured into about 250 ml of petroleum ether, to precipitate the polymer, and filtered. The solid product was dried, and inhibition of calcium orthophosphate scale was determined as described above. The results are reported in Table 2.

reactant | maleic anhydride | 7.8 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | N-vinyl-2-pyrrolidone | 7.06 g | C(=C)N1C(CCC1)=O | C6H9NO
reactant | azobisisobutyronitrile | about 0.96 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | dioxane | about 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | about 85 ml | O1CCOCC1 | C4H8O2
product | N-vinyl-2-pyrrolidone maleic anhydride | C(=C)N1C(CCC1)=O.C1(\C=C/C(=O)O1)=O | InChI=1S/C6H9NO.C4H2O3/c1-2-7-5-3-4-6(7)8;5-3-1-2-4(6)7-3/h2H,1,3-5H2;1-2H
